US09079878B2
3-({4-[4-(Trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)oxetan-3-amine
Benzyl [3-({4-[4-(trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)oxetan-3-yl]-carbamate (Preparation 11, 311 g, 695 mmol) was dissolved in methanol (3.2 L). 5% Palladium on carbon E105 R/W (EVONIK) (22 g, 7 wt %) was added and the reaction hydrogenated at 40° C., 100 psi for 18 hours. Hydrogen uptake was monitored and showed the reaction to be complete after 4 hours. The mixture was cooled to room temperature and filtered over Arbocel©. The filter cake was washed with methanol (2×1 L) and the filtrate concentrated in vacuo to afford a solid. The solid was dissolved in ethyl acetate (1 L) and filtered through a carbon tablet to remove traces of palladium. The solution was warmed to 50° C. and heptane (1 L) added. The solution was cooled slowly whereupon at 40° C. crystallisation was observed. The mixture was stirred at room temperature for 72 hours. The solid was collected by filtration and washed with ethyl acetate: heptane (1:1, 250 mL). The solid was dried in vacuo at 40° C. for 18 hours to afford the title compound as a crystalline solid.

reactant | Benzyl [3-({4-[4-(trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)oxetan-3-yl]-carbamate | 695 mmol, 311 g | FC(OC1=CC=C(C=C1)C=1N=C(NC1)CC1(COC1)NC(OCC1=CC=CC=C1)=O)(F)F | C22H20F3N3O4
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 3.2 L | CO | CH4O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 3-({4-[4-(Trifluoromethoxy)phenyl]-1H-imidazol-2-yl}methyl)oxetan-3-amine | FC(OC1=CC=C(C=C1)C=1N=C(NC1)CC1(COC1)N)(F)F | C14H14F3N3O2
